US06528525B1
(c) Ethyl 2-(4-fluorophenoxy)-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]-propionate
In a similar manner to that described in Reference example 3(e), a reaction was carried out using ethyl 2-(4-fluorophenoxy)-3-(4-hydroxyphenyl)propionate (2.75 g), which is the product of Reference example 37(b), 2-(2-bromoethyoxy)tetrahydropyran (2.08 g)and potassium carbonate (3.75 g) and the reaction mixture was treated to afford the desired compound (3.75 g) as a colorless oil.

reactant | ethyl 2-(4-fluorophenoxy)-3-(4-hydroxyphenyl)propionate | 2.75 g | FC1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)O)C=C1 | C17H17FO4
reactant | 2-(2-bromoethyoxy)tetrahydropyran | 2.08 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | potassium carbonate | 3.75 g | C([O-])([O-])=O.[K+].[K+]
product | Ethyl 2-(4-fluorophenoxy)-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]-propionate | 3.75 g | FC1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCOC2OCCCC2)C=C1 | C24H29FO6
